US04544400
Following the procedure of Example 4, N-methylcarbonyl 2-nitro-5-fluoroaniline (3.1 g, 15.4 mmol), 4-trifluoromethylphenol (2.5 g, 15.4 mmol) and potassium carbonate (4.3 g, 31.0 mmol) are reacted together to give N-methylcarbonyl 2-nitro-5-(4-trifluoromethylphenoxy)aniline, 4.0 g of which is then reacted with 20% hydrochloric acid (~50 ml) to give 2-nitro-5-(4-trifluoromethylphenoxy)aniline. 2-Nitro-5-(4-trifluoromethylphenoxy)aniline (2.0 g, 6.7 mmol) is reacted with potassium hydroxide (0.4 g, 7.0 mmol) and sodium hypochlorite (19 ml of 5.2% solution, 1.0 g, 13.4 mmol) to yield 5-(4-trifluormethylphenoxy)benzo-2,1,3-oxadiazole N-oxide, m.p. 40°-42°.

reactant | 2-Nitro-5-(4-trifluoromethylphenoxy)aniline | 6.7 mmol, 2.0 g | [N+](=O)([O-])C1=C(N)C=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F | C13H9F3N2O3
reactant | potassium hydroxide | 7.0 mmol, 0.4 g | [OH-].[K+]
reactant | sodium hypochlorite | 13.4 mmol, 19 ml, 1.0 g | Cl[O-].[Na+]
product | 5-(4-trifluormethylphenoxy)benzo-2,1,3-oxadiazole N-oxide | FC(C1=CC=C(OC2=CC=3C(=[N+](ON3)[O-])C=C2)C=C1)(F)F | C13H7F3N2O3
